US06472227B1
5-Secbutyl Barbituric Acid
110 mL of anhydrous ethanol was reacted with 7.72 g of sodium metal. Subsequently 17.6 g (0.1 mol) of dimethyl secbutylmalonate was added, followed (after about 5 minutes) by urea (6.72 g). The reaction mixture was refluxed for 15 hours and 60 mL of ethanol was distilled off. 200 mL of water was added to the residue followed by 20 mL of concentrated sulfuric acid. Precipitated crystals were filtered off. The product was then recrystallized from water to yield 8 g of colorless crystals.

reactant | sodium | 7.72 g | [Na] | Na
reactant | dimethyl secbutylmalonate | 0.1 mol, 17.6 g | C(C)(CC)C(C(=O)OC)C(=O)OC | C9H16O4
reactant | urea | 6.72 g | NC(=O)N | CH4N2O
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 5-Secbutyl Barbituric Acid | 8 g | C(C)(CC)C1C(NC(NC1=O)=O)=O | C8H12N2O3
